US09340506B2
Ethyl 2-[6-[[2-(4-cyclopropylsulfonylphenyl)-2-tetrahydropyran-4-yloxy-acetyl]amino]-2-pyridyl]acetate
The compound of example A9 was obtained by similar method described in example A1 using 2-(4-cyclopropanesulfonyl-phenyl)-2-[(tetrahydro-pyran-4-yloxy)]-acetic acid (Preparation 4; 0.990 g, 2.91 mmol), ethyl 2-(6-amino-2-pyridyl)acetate (0.35 g, 1.94 mmol), HOBt (0.65 g, 4.81 mmol), and EDCl (0.92 g, 4.81 mmol), N-methyl morpholine (0.64 mL, 5.83 mmol) in DMF (25 mL) to provide the title compound (0.45 g).

reactant | 2-(4-cyclopropanesulfonyl-phenyl)-2-[(tetrahydro-pyran-4-yloxy)]-acetic acid | 2.91 mmol, 0.990 g | C1(CC1)S(=O)(=O)C1=CC=C(C=C1)C(C(=O)O)OC1CCOCC1 | C16H20O6S
reactant | ethyl 2-(6-amino-2-pyridyl)acetate | 1.94 mmol, 0.35 g | NC1=CC=CC(=N1)CC(=O)OCC | C9H12N2O2
reactant | HOBt | 4.81 mmol, 0.65 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | EDCl | 4.81 mmol, 0.92 g | CCN=C=NCCCN(C)C.Cl
reactant | N-methyl morpholine | 5.83 mmol, 0.64 mL | CN1CCOCC1 | C5H11NO
solvent | DMF | 25 mL | CN(C)C=O | C3H7NO
product | Ethyl 2-[6-[[2-(4-cyclopropylsulfonylphenyl)-2-tetrahydropyran-4-yloxy-acetyl]amino]-2-pyridyl]acetate | 0.45 g | C1(CC1)S(=O)(=O)C1=CC=C(C=C1)C(C(=O)NC1=CC=CC(=N1)CC(=O)OCC)OC1CCOCC1 | C25H30N2O7S
